.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


.param PW= 1.348

*--------------------------------------------------------
.subckt INV A VDD GND Y
X0 Y A GND GND sky130_fd_pr__nfet_01v8 ad=0.189 pd=1.74 as=0.189 ps=1.74 w=0.42 l=0.15
X1 Y A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.6075 pd=3.6 as=0.6075 ps=3.6 w=1.35 l=0.15
C0 A GND 0.03663f
C1 VDD GND 0.03283f
C2 A VDD 0.03795f
C3 VDD GND 0.00982f
C4 GND Y 0.04791f
C5 A VDD 0.05633f
C6 A Y 0.03034f
C7 VDD VDD 0.02784f
C8 VDD Y 0.07174f
C9 VDD Y 0.01038f
C10 GND GND 0.27643f
C11 Y GND 0.10081f
C12 VDD GND 0.2964f
C13 A GND 0.28039f
C14 VDD GND 0.29102f
.ends

*--------------------------------------------------------
VDD vdd 0 DC 1.8

VIN in 0 PULSE(0 1.8 0 20p 20p 2n 4n)

.tran 1p 6n
*--------------------------------------------------------
XINV1 in vdd 0 out INV
XINV2 out vdd 0 load INV

*--------------------------------------------------------
.meas tran tr TRIG V(out) VAL=0.18 RISE=1 TARG V(out) VAL=1.62 RISE=1
.meas tran tf TRIG V(out) VAL=1.62 FALL=1 TARG V(out) VAL=0.18 FALL=1


.meas tran tphl TRIG V(in) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1
.meas tran tplh TRIG V(in) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1
*--------------------------------------------------------


.control
run

plot V(in) V(out)
plot V(in) V(load)
meas tran VM find V(out) when V(in)=V(out) cross=-1
print VM

.endc

.end