.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


.param PW= 1.348

*--------------------------------------------------------
.subckt INV in vdd vss out

XM1 out in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W={PW} AS={PW*0.3} AD={PW*0.3} PS={2*(PW+0.3)} PD={2*(PW+0.3)}

XM2 out in vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 AS=0.126 AD=0.126 PS=1.44 PD=1.44

c3 a vss 0.385f
c2 z vss 0.576f
.ends INV

*--------------------------------------------------------
VDD vdd 0 DC 1.8

VIN in 0 PULSE(0 1.8 0 20p 20p 2n 4n)

.tran 1p 6n
*--------------------------------------------------------
XINV1 in vdd 0 out INV
XINV2 out vdd 0 load INV

*--------------------------------------------------------
.meas tran tr TRIG V(out) VAL=0.18 RISE=1 TARG V(out) VAL=1.62 RISE=1
.meas tran tf TRIG V(out) VAL=1.62 FALL=1 TARG V(out) VAL=0.18 FALL=1


.meas tran tphl TRIG V(in) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1
.meas tran tplh TRIG V(in) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1
*--------------------------------------------------------


.control
run

plot V(in) V(out)
plot V(in) V(load)
meas tran VM find V(out) when V(in)=V(out) cross=-1
print VM

.endc

.end